US04772597
2-Pyrrolidon-3-yl Thioacetate
A mixture of 855 mg. (7.5 mmoles) potassium thioacetate and 1.27 g (5 mmoles) crude 2-pyrrolidon-3-yl-p-toluenesulfonate in 40 ml. acetone was refluxed under nitrogen for ca. 20 hr. The mixture was then filtered and the filtrate was concentrated in vacuo. The residue was partitioned between 50 ml. ethyl acetate and 50 ml. water and the ethyl acetate layer was washed with 40 ml. water and 40 ml. saturated aqueous sodium chloride solution. The ethyl acetate solution was dried over anhydrous sodium sulfate and concentrated in vacuo. The crude product was chromatographed on silica gel, eluting with ethyl acetate, to yield 180 mg. (23% yield) of the title compound.

reactant | potassium thioacetate | 7.5 mmoles | C(C)(=S)[O-].[K+]
reactant | 2-pyrrolidon-3-yl-p-toluenesulfonate | 5 mmoles, 1.27 g | N1C(C(CC1)OS(=O)(=O)C1=CC=C(C=C1)C)=O | C11H13NO4S
solvent | acetone | CC(=O)C | C3H6O
product | 2-Pyrrolidon-3-yl Thioacetate | 23% yield | C(C)(=S)OC1C(NCC1)=O | C6H9NO2S
